US04358307
A mixture of 4,5-dichloro-o-phenylenediamine (36.2 mmole) and alloxan monohydrate (36.2 mmole) in 10% aqueous acetic acid was stirred at room temperature for a period of 2 hours. Concentration of the reaction mixture gave N-(6,7-dichloro-2-hydroxy-3-quinoxalinoyl)urea which was added to 50% aqueous sulfuric acid and the mixture was heated at a temperature of 135° C. for a period of 3 hours. After cooling the precipitated material was collected by filtration, washed with water and then was slowly added to a 5% aqueous solution of sodium bicarbonate. The insoluble material was collected by filtration and was washed successively with water and ethanol to give 6,7-dichloro-2-hydroxyquinoxaline.

reactant | 4,5-dichloro-o-phenylenediamine | 36.2 mmole | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | alloxan monohydrate | 36.2 mmole | O.N1C(=O)NC(=O)C(=O)C1=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(6,7-dichloro-2-hydroxy-3-quinoxalinoyl)urea | ClC=1C=C2N=C(C(=NC2=CC1Cl)O)C(=O)NC(=O)N | C10H6Cl2N4O3
